US05869693
5-Nitrobenzocyclobutenone
Benzocyclobutenone (3.0 g, 25.42 mmol) was added slowly to concentrated sulfuric acid (6 mL) at -5° C.-0° C. with vigorous stirring. The resulting solution was further cooled to -10° C. and the mixture of concentrated sulfuric acid (3 mL) and nitric acid (70%, d 1.42, 2.0 mL) was added at such a rate that the solution temperature remained between -10° C. and -5° C. After the completion of addition of nitrating solution, stirring continued for 10 min. The reaction mixture was then poured into an ice slurry (30 g of ice in 30 mL of water). The product which precipitated out as yellow solids from water was collected by suction filtration and washed with water twice, aqueous sodium carbonate solution (10%) twice, and water twice consecutively. The solid product was recrystallized from methanol to give white fine crystals: 3.44 g (83.1%); mp 126°-127° C.; IR (KBr) 1342, 1522, 1785 cm-1 ; 1H NMR (200 MHz, CDCl3) 4.16 (s, 2H), 7.95 (d, 1H), 8.22 (s, 1H), 8.51 (d, 1H); MS (EI, m/e, relative intensity %) 163 (M+., 99.3), 135 (M+. -CO, 39.3), 89 (135 -.NO2, 100).

reactant | Benzocyclobutenone | 25.42 mmol, 3.0 g | C1(CC2=C1C=CC=C2)=O | C8H6O
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | KBr | [K+].[Br-]
solvent | water | 30 mL | O | H2O
product | 5-Nitrobenzocyclobutenone | [N+](=O)([O-])C=1C=CC2=C(C(C2)=O)C1 | C8H5NO3
